US07141563B2
D. 2-(2,3,3a,8b-Tetrahydrocyclopenta[b]Indol-4(1H)-yl)Acetonitrile
To a stirred solution of 1,2,3,3a,4,8b-hexahydrocyclopenta[b]indole (22 mmol, 3.5 g) in DMSO (44 mL) was added 60% sodium hydride (24 mmol, 0.97 g) portionwise, followed by 2-chloroacetonitrile (33 mmol, 2.1 mL). The reaction mixture stirred at ambient temperature for 18 h and then additional 60% sodium hydride (22 mmol, 0.88 g) and 2-chloroacetonitrile (24 mmol, 1.5 mL) was added. The reaction was heated to 60° C. for 18 h. The reaction was concentrated and the diluted with ethyl acetate and water. The phases were separated and the organic phase was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by flash column chromatography through silica gel (elution with 60% ethyl acetate-hexanes) to afford the desired material.

reactant | 1,2,3,3a,4,8b-hexahydrocyclopenta[b]indole | 22 mmol, 3.5 g | C1CCC2NC=3C=CC=CC3C21 | C11H13N
reactant | sodium hydride | 24 mmol, 0.97 g | [H-].[Na+]
reactant | 2-chloroacetonitrile | 33 mmol, 2.1 mL | ClCC#N | C2H2ClN
reactant | sodium hydride | 22 mmol, 0.88 g | [H-].[Na+]
reactant | 2-chloroacetonitrile | 24 mmol, 1.5 mL | ClCC#N | C2H2ClN
solvent | DMSO | 44 mL | CS(=O)C | C2H6OS
product | 2-(2,3,3a,8b-Tetrahydrocyclopenta[b]Indol-4(1H)-yl)Acetonitrile | C1CCC2N(C=3C=CC=CC3C21)CC#N | C13H14N2
